US06956050B2
STEP 2. 1-[4-(2-azidoethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole
To a stirred solution of 1-[4-(2-chloroethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole (1.1 g, 3.4 mmol) and KI (566 mg, 3.4 mmol) in DMF (7 mL) was added sodium azide (443 mg, 6.8 mmol), and then the resulting mixture was stirred overnight at 100° C. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with water and brine, then dried (MgSO4). After removal of solvent, the crude product was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (2:1) to afford 960 mg (89%) of the title compound as pale yellow amorphous: MS (ESI) m/z 318 [M+H]+, 1H-NMR (CDCl3)δ1.26 (2H, t, J=7.5 Hz), 2.72 (3H, q, J=7.7 Hz), 2.98 (2H, t, J=6.6 Hz), 3.59 (2H, t, J=6.6 Hz), 7.20-7.41 (9H, m), 7.79 (2H, dd, J=7.1, 1.3 Hz).

reactant | 1-[4-(2-chloroethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole | 3.4 mmol, 1.1 g | ClCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C19H19ClN2
reactant | sodium azide | 6.8 mmol, 443 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 1-[4-(2-azidoethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole | 960 mg, 89% | N(=[N+]=[N-])CCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C19H19N5
